US04948796
5.00 g of 6-bromoindole was added to 25 ml of N,N-dimethylformamide. To the mixture was added 4.37 g of iodomethane in the presence of 1.12 g of sodium hydride (purity: 60%). The resulting mixture was stirred for 1 hour at room temperature to obtain 5.67 g of 6-bromo-1-methylindole. 2.10 g of this compound was dissolved in 21 ml of diethyl ether. Into the solution was dropwise added 7.0 ml of a 1.5M n-hexane solution of n-butyllithium at -45° to -40° C. in a nitrogen atmosphere. The resulting mixture was stirred for 1 hour at room temperature. To the reaction mixture was added 1.46 g of N,N-dimethylformamide at -30° to -20° C. The mixture was stirred for 30 minutes at the same temperature. The temperature of the reaction mixture was elevated to room temperature. 30 ml of water and 10 ml of ethyl acetate were added thereto. The mixture was adjusted to pH 8.0 with dilute hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: n-hexane/ethyl acetate=10/1) to obtain 1.09 g of light brown solid 6-formyl-1-methylindole.

reactant | 6-bromoindole | 5.00 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | iodomethane | 4.37 g | IC | CH3I
reactant | sodium hydride | 1.12 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-bromo-1-methylindole | 5.67 g | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
